US04568375
3-Oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran
In this example a solution containing 31.7 g of (3-trifluoromethylphenyl)-methoxyacetyl-acetonitrile and 24.5 g of concentrated sulfuric acid in 125 ml of acetic acid was refluxed for about 15-20 minutes. The acetic acid was then evaporated off. The residue was mixed with ethyl ether and washed with saturated aqueous sodium bicarbonate solution. The mixture was then dried over magnesium sulfate. The ethyl ether was evaporated off and the residue triturated with a mixture of petroleum ether and ethyl ether affording 20.9 g of the title compound.

reactant | (3-trifluoromethylphenyl)-methoxyacetyl-acetonitrile | 31.7 g | FC(C=1C=C(C=CC1)C(C#N)C(COC)=O)(F)F | C12H10F3NO2
reactant | sulfuric acid | 24.5 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 3-Oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran | O=C1COC(=C1C1=CC(=CC=C1)C(F)(F)F)N | C11H8F3NO2
